US08877782B2
a) 2-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione
To a solution of [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol (5.8 g, 28 mmol) in THF (339 mL) was added phthalimide (5.5 g, 37 mmol) and triphenylphosphine (9.8 g, 37 mmol) at ambient temperature under an argon atmosphere. Then a solution of diethyl azodicarboxylate (40% in toluene, 14.6 mL, 37 mmol) was added and the reaction mixture was stirred for 1 h at room temperature. Concentration and repeated trituration with ethyl acetate afforded the title compound (6.3 g, 66%) as a white solid. MS: m/e=337.1 [M+H]+.

reactant | [3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 28 mmol, 5.8 g | FC=1C=C(C=CC1)C1=NOC(=C1CO)C | C11H10FNO2
reactant | phthalimide | 37 mmol, 5.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 37 mmol, 9.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 37 mmol, 14.6 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 339 mL | C1CCOC1 | C4H8O
product | 2-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-isoindole-1,3-dione | 6.3 g, 66% | FC=1C=C(C=CC1)C1=NOC(=C1CN1C(C2=CC=CC=C2C1=O)=O)C | C19H13FN2O3
